US06239131B1
Preparation of (R)-(−)-2-oxo-3-amino-5-cyclohexyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine
4N HCl-dioxane (10 ml) was added to a solution of (R)-(−)-2-oxo-3-tert-butoxycarbonylamino-5-cyclohexyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine (5.11 g) in ethanol (15 ml), and the mixture was stirred at 50: for one hour. After allowed to cool, the reaction mixture was concentrated under reduced pressure, the residue was neutralized with saturated aqueous sodium bicarbonate, and extracted with chloroform. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, diisopropyl ether was added to crystals so precipitated, washed, and collected by filtration. This was recrystallized from a mixed solvent of ethanol and diisopropyl ether, to thereby obtain 2.1 g of the titled compound.

reactant | HCl dioxane | 4N, 10 ml | Cl.O1CCOCC1
reactant | (R)-(−)-2-oxo-3-tert-butoxycarbonylamino-5-cyclohexyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 5.11 g | O=C1[C@@H](CN(C2=C(N1)C=CC=C2)C2CCCCC2)NC(=O)OC(C)(C)C | C20H29N3O3
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | (R)-(−)-2-oxo-3-amino-5-cyclohexyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 2.1 g | O=C1[C@@H](CN(C2=C(N1)C=CC=C2)C2CCCCC2)N | C15H21N3O
